US03946059
Bis-[γ-(triethoxysilyl)-propyl]-tetrasulfide
47.5 g of bis-[γ-(triethoxysilyl)-propyl]-disulfide (0.1 mole) was heated together with 6.2 g of sulfur (0.2 mole) in a nitrogen gas atmosphere for about 50 hours at 160°C, until all of the sulfur had gone into solution and did not crystallize out again when the solution was cooled. A dark red, viscous solution was formed, which a thin-layer chromatograph shows to contain no more free sulfur, and which, according to mass spectrometric analysis, contains a small amount of pentasulfide in addition to disulfides and trisulfides.

reactant | bis-[γ-(triethoxysilyl)-propyl]-disulfide | 0.1 mole, 47.5 g | C(C)O[Si](CCCSSCCC[Si](OCC)(OCC)OCC)(OCC)OCC | C18H42O6S2Si2
reactant | sulfur | 0.2 mole, 6.2 g | [S] | S
product | Bis-[γ-(triethoxysilyl)-propyl]-tetrasulfide | C(C)O[Si](CCCSSSSCCC[Si](OCC)(OCC)OCC)(OCC)OCC | C18H42O6S4Si2
